US09034866B2
Synthesis of ethyl 9-bromo-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
TFA (891 mg, 7.88 mmol, 30.00 equiv) was added dropwise to a stirred solution of ethyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (100 mg, 0.26 mmol, 1.00 equiv) and Et3SiH (454 mg, 3.90 mmol, 15.00 equiv) in dichloromethane (5 mL) at 0° C. After being stirred at room temperature overnight the reaction was quenched with 10 mL of saturated NaHCO3, extracted with 5×20 mL of ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:15) to give 70 mg (73%) of the titled compound as a light yellow solid; LC-MS (ES, m/z) 368, 369 [M+11]+.

reactant | TFA | 7.88 mmol, 891 mg, 30.00 equiv | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl 9-bromo-4-hydroxy-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 0.26 mmol, 100 mg, 1.00 equiv | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)(C)O)C=C1 | C15H14BrNO4S
reactant | Et3SiH | 3.90 mmol, 454 mg, 15.00 equiv | [SiH](CC)(CC)CC | C6H16Si
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 9-bromo-4-methyl-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 70 mg, 73% | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)C)C=C1 | C15H14BrNO3S
